US05001105
This condensation reaction was studied in detail using the acetylindole (K5) and the indole (J6) using phosphoryl chloride as a condensing agent in 1,2-dichloroethane as solvent. A solution of acetylindole (K5) in 1,2-dichloroethane was cooled in an ice/salt bath and phosphoryl chloride was added slowly, keeping the temperature of the reaction mixture between 0° and 5° C. during the addition. This low temperature was preferred during the initial stages of this reaction to minimize the formation of unwanted byproducts. After 30 minutes stirring while the reaction mixture warmed to room temperature, indole (J6) in 1,2-dichloroethane was added. The reaction mixture was stirred overnight at room temperature and gas chromatographic analysis indicated that the condensation, though not complete, had taken place. The condensation reaction was driven to completion by refluxing the reaction mixture for one hour. The product, unsymmetrical indolylethene [Table 3, Entry 22], was isolated in good yield (74%, Example 11).

reactant | acetylindole | C(C)(=O)C=1NC2=CC=CC=C2C1 | C10H9NO
reactant | indole | N1C=CC2=CC=CC=C12 | C8H7N
reactant | phosphoryl chloride | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | 1,2-dichloroethane | ClCCCl | C2H4Cl2
product | indolylethene | N1C(=CC2=CC=CC=C12)C=C | C10H9N
